US04315858
A suspension of 13.8 g (60 mmol) of 6-(4-aminophenyl)-1,2-dihydro-2-oxonicotinic acid, 25.2 ml (180 mmol) of triethylamine, and 600 ml of dichloromethane is stirred at 0°-5° and 24.0 ml (189 mmol) of chlorotrimethylsilane is added. The reaction mixture is stirred at room temperature for 1 hr and is cooled with a dry ice-acetone bath and 9.3 ml (66 mmol) of trifluoroacetic anhydride is added. The solution is stirred overnight while warming to room temperature. The dichloromethane is evaporated and water is added. The solid is filtered, washed with water and ether, and dried to give 19.8 g of 6-[4-(trifluoroacetylamino)phenyl]-1,2-dihydro-2-oxonicotinic acid; mp>270°.

reactant | 6-(4-aminophenyl)-1,2-dihydro-2-oxonicotinic acid | 60 mmol, 13.8 g | NC1=CC=C(C=C1)C=1NC(C(C(=O)O)=CC1)=O | C12H10N2O3
reactant | triethylamine | 180 mmol, 25.2 ml | C(C)N(CC)CC | C6H15N
reactant | chlorotrimethylsilane | 189 mmol, 24.0 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | trifluoroacetic anhydride | 66 mmol, 9.3 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 600 ml | ClCCl | CH2Cl2
product | 6-[4-(trifluoroacetylamino)phenyl]-1,2-dihydro-2-oxonicotinic acid | 19.8 g | FC(C(=O)NC1=CC=C(C=C1)C=1NC(C(C(=O)O)=CC1)=O)(F)F | C14H9F3N2O4
